US08563575B2
N-Phenylbis(trifluoromethanesulfonimide) (4.46 g) was added to a solution of 3-(4-hydroxyphenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (2.23 g) and triethylamine (8.69 mL) in THF (20% mL) at room temperature. The mixture was stirred at 70° C. under a dry atmosphere (CaCl2 tube) for 3 h. The mixture was neutralized with sat.NaHCO3aq. at 0° C. and extracted with EtOAc. The organic layer was separated, washed with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-30% EtOAc in hexane) to give 4-(2-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)phenyl trifluoromethanesulfonate (2.90 g) as tan oil.

reactant | N-Phenylbis(trifluoromethanesulfonimide) | 4.46 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | 3-(4-hydroxyphenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 2.23 g | OC1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2)COCC[Si](C)(C)C)=O | C18H23N3O3Si
reactant | triethylamine | 8.69 mL | C(C)N(CC)CC | C6H15N
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | THF | C1CCOC1 | C4H8O
product | 4-(2-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)phenyl trifluoromethanesulfonate | 2.90 g | FC(S(=O)(=O)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2)COCC[Si](C)(C)C)=O)(F)F | C19H22F3N3O5SSi
